US09034880B2
Preparation of 2′,8′-dimethyl-5′-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-1′,2′,4′,5′-tetrahydrospiro[cyclopropane-1,3′-pyrido[4,3-b]indole] (Compound 375)
The title compound is prepared from a mixture of 2′,8′-dimethyl-1′,2′,4′,5′-tetrahydrospiro[cyclopropane-1,3′-pyrido[4,3-b]indole], 2-(trifluoromethyl)-5-vinylpyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2′,8′-dimethyl-1′,2′,4′,5′-tetrahydrospiro[cyclopropane-1,3′-pyrido[4,3-b]indole] | CN1CC2=C(NC=3C=CC(=CC23)C)CC12CC2 | C15H18N2
reactant | 2-(trifluoromethyl)-5-vinylpyridine | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2′,8′-dimethyl-5′-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-1′,2′,4′,5′-tetrahydrospiro[cyclopropane-1,3′-pyrido[4,3-b]indole] | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC(=CC2)C(F)(F)F)CC12CC2 | C23H24F3N3
